US09290485B2
To a solution of methyl 4-((1H-pyrazol-1-yl)methyl)-3-methoxybenzoate (330 mg crude) in THF (6 ml) DIBAL-H 1M in Hexane (4.02 ml, 4.02 mmol) was added dropwise at −70° C. The reaction mixture was stirred at −70° C. for 3.5 h. The reaction mixture was quenched subsequently with ethyl acetate (2 ml) and saturated aqueous NH4Cl. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford crude (4-((1H-pyrazol-1-yl)methyl)-3-methoxyphenyl)methanol. MS [M+H]+=219.

reactant | methyl 4-((1H-pyrazol-1-yl)methyl)-3-methoxybenzoate | 330 mg | N1(N=CC=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C13H14N2O3
reactant | Hexane | 4.02 mmol, 4.02 ml | CCCCCC | C6H14
solvent | THF | 1M, 6 ml | C1CCOC1 | C4H8O
product | (4-((1H-pyrazol-1-yl)methyl)-3-methoxyphenyl)methanol | N1(N=CC=C1)CC1=C(C=C(C=C1)CO)OC | C12H14N2O2
